US04036983
3-(Cyclohexylthio)propionyl ferrocene
A solution of acryloyl ferrocene (2.16g) and cyclohexylmercaptan (1.16g) in ethanol (50 ml) was set aside at ambient temperature for 24 hours. Evaporation of the ethanol gave an oil which was dissolved in chloroform (100 ml). The chloroform solution was washed successively with aqueous sodium hydroxide and water, dried over sodium sulphate and evaporated affording crude product. This was chromatographed through a silica-gel column (66g) using initially 1% ethyl acetate/petroleum ether (60°-80°) then 3% ethyl acetate/petroleum ether as eluent. This afforded an oil which crystallised on cooling and trituration with petroleum ether. The solid was filtered off, washed well with petroleum ether and dried giving the title compound, m.p. 46.5°-48.5°to C.

reactant | acryloyl ferrocene | 2.16g | C(C=C)(=O)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | cyclohexylmercaptan | 1.16g | C1(CCCCC1)S | C6H12S
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(Cyclohexylthio)propionyl ferrocene | C1(CCCCC1)SCCC(=O)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C14H19OS.C5H5.Fe/c15-14(12-6-4-5-7-12)10-11-16-13-8-2-1-3-9-13;1-2-4-5-3-1;/h4-7,13H,1-3,8-11H2;1-5H;/q2*-1;+2
